US04382892
140 mg of 9,10-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid and 404 mg of 4-hydroxypiperidine were added to 2 ml of dimethylsulfoxide. The mixture was stirred at a temperature of from about 100° to 110° C. (bath temperature) for 5.5 hours and the reaction mixture was concentrated to dryness in vacuo. Water was added to the residue and the mixture was neutralized with diluted hydrochloric acid to yield precipitate. The precipitate was collected by filtration, washed with water, and then recrystallized from ethanol to provide 66 mg of 9-fluoro-10-(4-hydroxy-1-piperidinyl)-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid with m.p. 220°-240° C. (with decomposition).

reactant | 9,10-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 140 mg | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | 4-hydroxypiperidine | 404 mg | OC1CCNCC1 | C5H11NO
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 9-fluoro-10-(4-hydroxy-1-piperidinyl)-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 66 mg | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)N1CCC(CC1)O | C18H19FN2O5
